Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Urinary retention
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old man with past medical history of BPH,
T2DM, lumbar stenosis who presents as a visit from ___ urgent
care clinic after having difficulty urinating over last 48 hours
and found to have urinary retention s/p foley placement. 

At baseline, patient has LUTS with nocturia ___ times a night as
well a slightly weakened urinary stream. On ___, he
awoke and was having significant difficulty urinating. He denies
taking any new medications prior but did attend a ___
service the night prior and had several alcoholic beverages. 
Over
the next ___ hours, he had increasing difficulty urinating to the
point where he was unable to void at all. He then presented to
___ urgent care and a foley catheter was placed but without
urine flow. Due to concern for continued obstruction, he was
referred to ED for further evaluation.

Of note, patient has a history of urinary retention due to
underlying BPH and has needed foley catheter at least two times
in the past. He states he has not needed one in at least a few
years and follows annually with Urology at ___. He is on both
Tamsulosin and finasteride and per last urology note, symptoms
have been stable. 

In the ED:
- Initial vital signs were notable for:
T 97.0 HR 78 BP 154/94 RR 16 SpO2 97% RA

- Labs were notable for:
BMP: Na 143, K 4.5, Cl 103, HCO3 19, BUN 47, Cr 4.8
CBC: WBC 9.6, Hgb 13.3, plt 164
UA: RBC >182, WBC 12, Bact none

- Studies performed include:
Bladder scan: 995cc
Renal US:
-Trace perinephric fluid bilaterally, without evidence of stones
or
hydronephrosis.
-Prostatomegaly with a volume of 173 cc.

- Consults:
Renal:
  - Continue Foley
  - Consult urology
  - Renal and bladder ultrasound
  - Monitor urine output closely
  - Continue tamsulosin and finasteride

Vitals on transfer:
T 98.6 HR 69 BP 157/83 RR 16 SpO2 95% RA

Upon arrival to the floor, patient states his abdominal
discomfort has improved after foley placement. He confirms the
above history and has not additional complaints. He denies any
pain at the catheter site. He is wondering how long he needs to
stay in the hospital as he has a planned vacation to ___ 
with
flight leaving 8AM ___ and is wondering if he can make it. 

REVIEW OF SYSTEMS: Complete ROS obtained and is otherwise
negative.

 
Past Medical History:
- BPH with history of urinary retention in past (sees Dr. ___ in
At___ ___
- Lumbar stenosis without neurogenic claudication
- Type 2 DM 
- Obesity
- Diverticulosis
- Elevated PSA 
   - ___ - PBx - vol 133.73 - path negative for 
malignancy,
but with acute and chronic inflammation. 
   - f/u path of PBx ___ PSA 6.9 - vol 94.2gm - path benign
   - Negative prostate MRI at ___ in ___. 

 
Social History:
___
Family History:
No family history of bladder or prostate cancer. Otherwise
reviewed and non-contributory.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: ___ 2356 Temp: 97.9 PO BP: 136/72 L Lying HR: 68 
RR:
18 O2 sat: 94% O2 delivery: Ra FSBG: 92 
GENERAL: Alert and interactive. In no acute distress.
EYES: NCAT. PERRL, EOMI. Sclera anicteric and without injection. 

ENT: MMM. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
RESP: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. 
RECTAL: Normal rectal tone. Enlarged prostate with smooth
borders. No nodules palpated.
MSK: No CVA tenderness. No clubbing, cyanosis, or edema. 
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. Gait is normal. AOx3.
PSYCH: appropriate mood and affect

DISCHARGE PHYSICAL EXAM:
========================
24 HR Data (last updated ___ @ 1659)
Temp: 99.1 (Tm 99.1), BP: 132/81 (132-139/72-87), HR: 65 
(65-86), RR: 18 (___), O2 sat: 95% (91-95), O2 delivery: Ra, 
Wt: 192.1 lb/87.14 kg
GENERAL: Continues alert and interactive. In no acute distress.
EYES: NCAT. EOMI. Sclera anicteric and without injection. 
ENT: MMM. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
RESP: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. 
GU: Foley in place without trauma or bleeding around meatus
MSK: No CVA tenderness. No clubbing, cyanosis, or edema. 
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. Gait is normal. AOx3.
PSYCH: appropriate mood and affect
 
Pertinent Results:
ADMISSION LABS
___ 07:00PM BLOOD WBC-9.6 RBC-4.32* Hgb-13.3* Hct-36.1* 
MCV-84 MCH-30.8 MCHC-36.8 RDW-14.1 RDWSD-43.0 Plt ___
___ 07:00PM BLOOD Neuts-81.7* Lymphs-10.7* Monos-7.2 
Eos-0.0* Baso-0.1 Im ___ AbsNeut-7.86* AbsLymp-1.03* 
AbsMono-0.69 AbsEos-0.00* AbsBaso-0.01
___ 07:00PM BLOOD Glucose-122* UreaN-47* Creat-4.8*# Na-143 
K-4.5 Cl-103 HCO3-19* AnGap-21*

DISCHARGE LABS
___ 07:42AM BLOOD Glucose-126* UreaN-29* Creat-1.5*# Na-145 
K-4.1 Cl-107 HCO3-25 AnGap-13
___ 03:35PM BLOOD Glucose-99 UreaN-22* Creat-1.3* Na-146 
K-4.1 Cl-107 HCO3-26 AnGap-13
___ 07:42AM BLOOD WBC-8.0 RBC-4.27* Hgb-13.3* Hct-36.0* 
MCV-84 MCH-31.1 MCHC-36.9 RDW-14.2 RDWSD-43.1 Plt ___
___ 07:42AM BLOOD Calcium-8.9 Phos-2.4* Mg-2.2
___ 03:35PM BLOOD Calcium-8.8 Phos-2.6* Mg-2.2

IMAGING AND STUDIES
___ RENAL US
Impression:
1. Trace perinephric fluid bilaterally, more conspicuous on the 
right, without 
sonographic evidence of stones or hydronephrosis. 
2. Prostatomegaly with a volume of 173 cc. 

MICROBIOLOGY
___ 6:45 pm URINE; URINE CULTURE (Pending)
 
Brief Hospital Course:
SUMMARY STATEMENT
=================
Mr. ___ is a ___ year old man with past medical history of BPH, 
T2DM, lumbar stenosis who presents as a visit from ___ 
___ after having difficulty urinating over last 48 hours 
and found to have urinary retention s/p foley placement.

TRANSITIONAL ISSUES
===================
[] follow up with urologist Dr. ___ within 7 days after 
discharge
[] repeat chemistry panel outpatient mainly to assess for 
resolution of acute kidney injury with BUN and Cr levels

ACUTE ISSUES
============
#Urinary retention
#Post-obstructive acute kidney injury
Patient w/hx of BPH and past episodes of urinary retention 
requiring foley catheterization, presented for 2 days of urinary 
retention, foley introduced in ED with 1.6L of output. Renal US 
without evidence of hydronephrosis. Suspect that his urinary 
retention was due to post-obstructive process, particularly in 
light of his BPH. He was found to have ___ which was rapidly 
resolving post foley placement. He was deemed appropriate for 
discharge with continuation of foley per urology and nephrology 
services. 

CHRONIC ISSUES
==============
# T2DM
Kept on ISS during the short time he was admitted.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 40 mg PO QPM 
2. Tamsulosin 0.4 mg PO QHS 
3. Finasteride 5 mg PO DAILY 
4. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Atorvastatin 40 mg PO QPM  
2.  Finasteride 5 mg PO DAILY  
3.  Multivitamins 1 TAB PO DAILY  
4.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Acute urinary retention secondary to prostate enlargement

SECONDARY DIAGNOSIS
===================
Post-obstructive acute kidney injury

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You had urinary retention that required a catheter insertion. 

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
- You had a Foley catheter inserted and watched for recovery of 
your kidney function due to the 2-day urinary obstruction.
- You were seen by the general medicine service along nephrology 
service and the urology service for your condition.

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Please continue to take all of your medications as directed
- Please follow up with all the appointments scheduled with your 
doctor

___ you for allowing us to be involved in your care, we wish 
you all the best!  
Your ___ Healthcare Team  
 
Followup Instructions:
___